US06245804B1
1.3 g of anhydrous zinc chloride and 13.2 g of granular manganese are heated to boiling in 100 ml of tetrahydrofuran and boiled with 0.2 ml of methallyl bromide for 30 minutes. Then, the solution of 25 g of methallyl bromide and 17 g of trifluoropyruvic acid ethyl ester in 80 ml of tetrahydrofuran is added in drops at boiling heat over 2 hours, and boiled for another hour. Then, while being cooled with ice, saturated ammonium chloride solution and 300 ml of ethyl acetate are added, stirred for 30 minutes at 0° C., and the separated ethyl acetate phase is washed with saturated ammonium chloride solution and three times with water. The solvent is dried (Na2SO4) and concentrated by evaporation, and the residue is distilled in a vacuum. 17.6 g of 2-hydroxy-4-methylene-2-trifluoromethyl-valeric acid ethyl ester, boiling point 48° C./1 hPa, is obtained.

reactant | methallyl bromide | 0.2 ml | C(C(C)=C)Br | C4H7Br
reactant | methallyl bromide | 25 g | C(C(C)=C)Br | C4H7Br
reactant | trifluoropyruvic acid ethyl ester | 17 g | C(C)OC(C(=O)C(F)(F)F)=O | C5H5F3O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 1.3 g | [Cl-].[Zn+2].[Cl-]
catalyst | manganese | 13.2 g | [Mn] | Mn
product | 2-hydroxy-4-methylene-2-trifluoromethyl-valeric acid ethyl ester | 17.6 g | C(C)OC(C(CC(C)=C)(C(F)(F)F)O)=O | C9H13F3O3
